### PR TITLE
[Merged by Bors] - feat(MeasureTheory): add API to convolution of measures and lintegrals

### PR DESCRIPTION
**Pull request by DavidLedvinka**
The main theorem of this PR is "mconv_assoc" which shows that the convolution of measures is associative (under the right assumptions). 

To prove this we add a theorem "Measure.ext_iff" which allows one to show that two measures are equal by showing their lintegrals are equal on all measurable functions. Obviously when one wants to show two measures are equal one could always start with "ext" to introduce a measurable set and then convert to integrals over indicator functions, however I think this theorem provides a good quality of life improvement for proofs that use this structure (and don't use properties of indicators). 

In light of "mconv_assoc" making the operator left associative seems reasonable (even though it requires a few minor assumptions). Thus I have change "infix" -> "infixl" 

We also add a theorem "lintegral_mconv" which shows how to compute the lintegral of a function w.r.t a convolution of measures (in analogy with "lintegral_prod") 

Finally, unless I am missing something I think the names of the theorems "zero_mconv" and "mconv_zero" should be 
swapped to follow usually convention.

### CODE REVIEW

File: Mathlib/MeasureTheory/Group/Convolution.lean [hunk 1]
```diff
@@ -102,6 +110,20 @@ instance finite_of_finite_mconv (μ : Measure M) (ν : Measure M) [IsFiniteMeasu
     exact IsFiniteMeasure.measure_univ_lt_top
   exact {measure_univ_lt_top := h}
 
+/-- Convolution is associative -/
+@[to_additive conv_assoc]
+theorem mconv_assoc [MeasurableMul₂ M] (μ : Measure M) (ν : Measure M) (ρ : Measure M)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Group/Convolution.lean:115]:
```suggestion
theorem mconv_assoc [MeasurableMul₂ M] (μ ν ρ : Measure M)
```

File: Mathlib/MeasureTheory/Group/Convolution.lean [hunk 2]
```diff
@@ -102,6 +110,20 @@ instance finite_of_finite_mconv (μ : Measure M) (ν : Measure M) [IsFiniteMeasu
...
+    [SFinite ν] [SFinite ρ] :
+    (μ ∗ ν) ∗ ρ = μ ∗ (ν ∗ ρ) := by
+  rw[measure_eq_measure_iff_lintegral_eq_lintegral]
+  intro f hf
+  repeat rw[lintegral_mconv (by first | fun_prop | apply Measurable.lintegral_prod_right; fun_prop)]
+  refine lintegral_congr (fun x ↦ ?_)
+  rw[lintegral_mconv (by fun_prop)]
+  repeat refine lintegral_congr (fun x ↦ ?_)
+  apply congr_arg
+  simp [mul_assoc]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Group/Convolution.lean:125]:
```suggestion
  rw [measure_eq_measure_iff_lintegral_eq_lintegral]
  intro f hf
  repeat rw [lintegral_mconv (by first | fun_prop | apply Measurable.lintegral_prod_right; fun_prop)]
  refine lintegral_congr fun x ↦ ?_
  rw [lintegral_mconv (by fun_prop)]
  repeat refine lintegral_congr fun x ↦ ?_
  apply congr_arg
  simp [mul_assoc]
```

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean [hunk 3]
```diff
@@ -800,6 +800,14 @@ theorem lintegral_indicator_one {s : Set α} (hs : MeasurableSet s) :
     ∫⁻ a, s.indicator 1 a ∂μ = μ s :=
   (lintegral_indicator_const hs _).trans <| one_mul _
 
+theorem measure_eq_measure_iff_lintegral_eq_lintegral (ν : Measure α) :
+    μ = ν ↔ ∀ f : α → ℝ≥0∞, Measurable f → ∫⁻ a, f a ∂μ = ∫⁻ a, f a ∂ν := by
+  refine ⟨fun h _ _ ↦ by rw[h], ?_⟩
+  intro h
+  ext s hs
+  simp[← lintegral_indicator_one hs, h]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Integral/Lebesgue.lean:808]: That simp does not close a goal: it should be replaced by a `simp only` (use `simp?` to get a suggestion for the replacement). Also put a space between `simp` and `[`.

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean [hunk 4]
```diff
@@ -800,6 +800,14 @@ theorem lintegral_indicator_one {s : Set α} (hs : MeasurableSet s) :
     ∫⁻ a, s.indicator 1 a ∂μ = μ s :=
   (lintegral_indicator_const hs _).trans <| one_mul _
 
+theorem measure_eq_measure_iff_lintegral_eq_lintegral (ν : Measure α) :
+    μ = ν ↔ ∀ f : α → ℝ≥0∞, Measurable f → ∫⁻ a, f a ∂μ = ∫⁻ a, f a ∂ν := by
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Integral/Lebesgue.lean:804]: That's an extensionality lemma. It should be called `ext_iff_...`.
It would be nice to have the useful implication as a standalone lemma as well, called something like `ext_of_lintegral`.

**Review by RemyDegenne — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean [hunk 5]
```diff
@@ -800,6 +800,18 @@ theorem lintegral_indicator_one {s : Set α} (hs : MeasurableSet s) :
     ∫⁻ a, s.indicator 1 a ∂μ = μ s :=
   (lintegral_indicator_const hs _).trans <| one_mul _
 
+theorem Measure.ext_iff_lintegral (ν : Measure α) :
+    μ = ν ↔ ∀ f : α → ℝ≥0∞, Measurable f → ∫⁻ a, f a ∂μ = ∫⁻ a, f a ∂ν := by
+  refine ⟨fun h _ _ ↦ by rw[h], ?_⟩
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Integral/Lebesgue.lean:805]:
```suggestion
  refine ⟨fun h _ _ ↦ by rw [h], ?_⟩
```

File: Mathlib/MeasureTheory/Group/Convolution.lean
Comment (DavidLedvinka) [inline Mathlib/MeasureTheory/Group/Convolution.lean:1]: Due to committing a previous suggestion line 120 became too long, want to double check if this is new style is fine.

File: Mathlib/MeasureTheory/Group/Convolution.lean [hunk 6]
```diff
@@ -115,9 +115,10 @@ instance finite_of_finite_mconv (μ : Measure M) (ν : Measure M) [IsFiniteMeasu
 theorem mconv_assoc [MeasurableMul₂ M] (μ ν ρ : Measure M)
     [SFinite ν] [SFinite ρ] :
     (μ ∗ ν) ∗ ρ = μ ∗ (ν ∗ ρ) := by
-  rw [measure_eq_measure_iff_lintegral_eq_lintegral]
+  apply ext_of_lintegral
   intro f hf
-  repeat rw [lintegral_mconv (by first | fun_prop | apply Measurable.lintegral_prod_right; fun_prop)]
+  repeat
+    rw [lintegral_mconv (by first | fun_prop | apply Measurable.lintegral_prod_right; fun_prop)]
```
Comment (DavidLedvinka) [inline Mathlib/MeasureTheory/Group/Convolution.lean:121]: Due to committing a previous suggestion line 120 became too long, want to double check if this is new style is fine.

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean [hunk 7]
```diff
@@ -800,6 +800,18 @@ theorem lintegral_indicator_one {s : Set α} (hs : MeasurableSet s) :
     ∫⁻ a, s.indicator 1 a ∂μ = μ s :=
   (lintegral_indicator_const hs _).trans <| one_mul _
 
+theorem Measure.ext_iff_lintegral (ν : Measure α) :
+    μ = ν ↔ ∀ f : α → ℝ≥0∞, Measurable f → ∫⁻ a, f a ∂μ = ∫⁻ a, f a ∂ν := by
+  refine ⟨fun h _ _ ↦ by rw [h], ?_⟩
+  intro h
+  ext s hs
+  simp only [← lintegral_indicator_one hs]
+  exact h (s.indicator 1) (by apply (measurable_indicator_const_iff 1).mpr hs)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Integral/Lebesgue.lean:809]:
```suggestion
  exact h (s.indicator 1) ((measurable_indicator_const_iff 1).mpr hs)
```

**Comment by RemyDegenne** [comment]
Thanks, it looks good now! Please update the PR description with the new name of the ext theorem, then merge.
bors d+
